US08293923B2
Step 4: Ethyl 2-amino-1-(trans-4-hydroxycyclohexyl)-1H-benzimidazole-5-carboxylate
5.0 M cyanogen bromide in acetonitrile (1.0 mL) was added to water (35 mL) in a 250 mL round-bottom flask at room temperature with stirring. To this was added dropwise via an addition funnel ethyl 3-amino-4-(trans-4-hydroxycyclohexylamino)benzoate (0.91 g, 0.0033 mol) in methanol (70 mL) over 1 hour. After 3 hours the reaction mixture was concentrated to an off white residue. The residue was triturated with ethyl acetate and dried overnight in vacuo to give the title compound (0.97 g, 98%) as an off white solid.

reactant | cyanogen bromide | 5.0 M | N#CBr | CBrN
reactant | water | 35 mL | O | H2O
reactant | ethyl 3-amino-4-(trans-4-hydroxycyclohexylamino)benzoate | 0.0033 mol, 0.91 g | NC=1C=C(C(=O)OCC)C=CC1N[C@@H]1CC[C@H](CC1)O | C15H22N2O3
solvent | acetonitrile | 1.0 mL | C(C)#N | C2H3N
solvent | methanol | 70 mL | CO | CH4O
product | Ethyl 2-amino-1-(trans-4-hydroxycyclohexyl)-1H-benzimidazole-5-carboxylate | 0.97 g, 98% | NC1=NC2=C(N1[C@@H]1CC[C@H](CC1)O)C=CC(=C2)C(=O)OCC | C16H21N3O3
